US07361675B2
In 3 ml of N,N-dimethylformamide, 400 mg of a mixture of 3-methylsulfonyl-5-(2-chlorophenyl)-1,2,4-thiadiazole and 3-methylsulfinyl-5-(2-chlorophenyl)-1,2,4-thiadiazole and 114 mg of 2-butyne-1-ol were dissolved, to the resulting solution was added 65 mg of sodium hydride (60% oily) with ice-cooling, and the mixture was stirred for 1 hour, and further stirred at room temperature for 1 hour. Then, the reaction mixture was poured into an aqueous saturated sodium chloride solution, and the mixture was extracted with t-butyl methyl ether. The residue obtained by concentration of the organic layer was subjected to silica gel column chromatography to obtain 210 mg of 5-(2-chlorophenyl)-3-(2-butynyloxy)-1,2,4-thiadiazole (the compound (8) of the present invention).

reactant | 3-methylsulfonyl-5-(2-chlorophenyl)-1,2,4-thiadiazole | CS(=O)(=O)C1=NSC(=N1)C1=C(C=CC=C1)Cl | C9H7ClN2O2S2
reactant | 3-methylsulfinyl-5-(2-chlorophenyl)-1,2,4-thiadiazole | CS(=O)C1=NSC(=N1)C1=C(C=CC=C1)Cl | C9H7ClN2OS2
reactant | 2-butyne-1-ol | 114 mg | C(C#CC)O | C4H6O
reactant | sodium hydride | 65 mg | [H-].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 5-(2-chlorophenyl)-3-(2-butynyloxy)-1,2,4-thiadiazole | 210 mg | ClC1=C(C=CC=C1)C1=NC(=NS1)OCC#CC | C12H9ClN2OS
